### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): second step of a factorization lemma

### PR DESCRIPTION
**Pull request by joelriou**
This is the second in a series of three PRs towards #35813 which shall show that if `f : K ⟶ L` is a morphism between bounded below cochain complexes in an abelian category with enough injectives, then there exists a factorization `ι ≫ π = f` with `ι : K ⟶ K'` a monomorphism that is also a quasi-isomorphism and `π : K' ⟶ L` a morphism which degreewise is an epimorphism with an injective kernel, while `K'` is also bounded below (with precise bounds depending on the available bounds for `K` and `L`). The construction of the intermediate object `K'` is obtained by taking a degreewise eventually constant projective limit of cochain complexes, where the complexes in the projective system are constructed step by step. Each step decomposes further into two lemmas `step₁` and `step₂`. In this PR, we prove `step₂`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean [hunk 1]
```diff
@@ -210,13 +210,214 @@ public lemma step₁ [EnoughInjectives C] [Mono f] (n₀ n₁ : ℤ)
...
+i.e. the object in degree `n` of the canonical truncation `≥ n` of `cokernel f`. -/
+noncomputable abbrev S :=
+  (single C (.up ℤ) n).obj (Injective.under (((cokernel f).truncGE n).X n))
+
+/-- The morphism `(cokernel f).truncGE n ⟶ S f n` which in degree `n` is
+given by `Injective.ι _`. -/
+noncomputable def p : (cokernel f).truncGE n ⟶ S f n :=
+  mkHomToSingle (Injective.ι _) (fun i hi ↦ by
+    simp only [ComplexShape.up_Rel] at hi
+    exact (isZero_of_isStrictlyGE _ n _ (by lia)).eq_of_src _ _)
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5a.lean]:
```suggestion
exact (isZero_of_isStrictlyGE _ n _).eq_of_src _ _)

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean [hunk 2]
```diff
@@ -210,13 +210,214 @@ public lemma step₁ [EnoughInjectives C] [Mono f] (n₀ n₁ : ℤ)
...
+namespace step₂
+
+/-!
+This section provides the material in order to prove the lemma `step₂` below.
+Given a monomorphism `f : K ⟶ L` that is a quasi-isomorphism in degrees `< n`
+and which induces a monomorphism in homology in degree `n`, we construct
+a factorisation of `f` as `ι f n ≫ π f n = f` where
+`ι f n : K ⟶ mid f n` is a monomorphism which is a quasi-isomorphism
+in degrees `≤ n`, `π f n` is a degreewise epimorphism with an injective kernel
+which also induces isomorphisms in degrees `≤ n`.
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5a.lean:220]:
```suggestion
which also induces isomorphisms in degrees `< n`.
```

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean [hunk 3]
```diff
@@ -210,13 +210,214 @@ public lemma step₁ [EnoughInjectives C] [Mono f] (n₀ n₁ : ℤ)
...
+    have : Mono (homologyMap (mappingCocone.triangle (α f n)).mor₁ n) :=
+      by dsimp; infer_instance
+    have h₁ := (exact_homologyShortComplex f n).fIsKernel
+    have h₂ := (CochainComplex.homologyMap_exact₂_of_distTriang _
+      (DerivedCategory.mappingCocone_triangle_distinguished (α f n)) n).fIsKernel
+    have : homologyMap (ι f n) n = (IsLimit.conePointUniqueUpToIso h₁ h₂).hom := by
+      have := IsLimit.conePointUniqueUpToIso_hom_comp h₁ h₂ .zero
+      dsimp at this
+      rw [← cancel_mono (homologyMap (π f n) n), this, ← homologyMap_comp,
+        mappingCocone.lift_fst]
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5a.lean]: If you transform this part of the proof to
```suggestion
    have : homologyMap (ι f n) n = (IsLimit.conePointUniqueUpToIso h₁ h₂).hom := by
      simp [← cancel_mono (homologyMap (π f n) n), 
        dsimp% IsLimit.conePointUniqueUpToIso_hom_comp h₁ h₂ .zero,
        ← homologyMap_comp, mappingCocone.lift_fst]
```
Then the `set_option backward.isDefEq` can be removed.

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean [hunk 4]
```diff
@@ -210,13 +210,214 @@ public lemma step₁ [EnoughInjectives C] [Mono f] (n₀ n₁ : ℤ)
...
+    { τ₁ := 𝟙 _
+      τ₂ := 𝟙 _
+      τ₃ := homologyMap ((cokernel f).πTruncGE n ≫ p f n) n
+      comm₂₃ := by
+        dsimp
+        rw [Category.id_comp, ← homologyMap_comp, α] }
+  have : Mono φ.τ₃ := by
+    dsimp [φ]
+    rw [homologyMap_comp]
+    infer_instance
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5a.lean]: If you replace this part of the proof by
```suggestion
  obtain ⟨_, _, _⟩ : Mono φ.τ₃ ∧ IsIso φ.τ₂ ∧ Epi φ.τ₁ := by
    dsimp [φ]
    rw [homologyMap_comp]
    exact ⟨inferInstance, inferInstance, inferInstance⟩
```
then no need to `set_option backward.isDefEq`.

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean [hunk 5]
```diff
@@ -210,13 +210,214 @@ public lemma step₁ [EnoughInjectives C] [Mono f] (n₀ n₁ : ℤ)
...
+    fun i hi ↦ quasiIsoAt_ι f n₁ (fun j hj ↦ hf j (by lia)) _ hi,
+    isIso_π_f f n₁⟩
 
-proof_wanted step [EnoughInjectives C] [Mono f] (n₀ n₁ : ℤ) (hn₁ : n₀ + 1 = n₁)
+public lemma step [EnoughInjectives C] [Mono f] (n₀ n₁ : ℤ) (hn₁ : n₀ + 1 = n₁)
     (hf : ∀ i ≤ n₀, QuasiIsoAt f i) (hn₁ : n₀ + 1 = n₁ := by lia) :
-    ∃ (F : (cofFib f).FullSubcategory), quasiIsoLE n₁ F ∧ isIsoLE n₀ F
+    ∃ (F : (cofFib f).FullSubcategory), quasiIsoLE n₁ F ∧ isIsoLE n₀ F := by
+  obtain ⟨F₁, h₁, h₂, _⟩ := step₁ f n₀ n₁ hf
+  obtain ⟨F₂, h₃, h₄⟩ := step₂ F₁.obj.ι n₀ n₁ h₁
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5a.lean:410]:
```suggestion
  refine ⟨.mk { mid := F₂.obj.mid, ι := F₂.obj.ι, π := F₂.obj.π ≫ F₁.obj.π }
```

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean [hunk 6]
```diff
@@ -210,13 +210,214 @@ public lemma step₁ [EnoughInjectives C] [Mono f] (n₀ n₁ : ℤ)
...
     (hf : ∀ i ≤ n₀, QuasiIsoAt f i) [Mono (homologyMap f n₁)] (hn₁ : n₀ + 1 = n₁ := by lia) :
-    ∃ (F : (cofFib f).FullSubcategory), quasiIsoLE n₁ F ∧ isIsoLE n₁ F
+    ∃ (F : (cofFib f).FullSubcategory), quasiIsoLE n₁ F ∧ isIsoLE n₁ F :=
+  ⟨.mk { mid := mid f n₁, ι := ι f n₁, π := π f n₁}
+    ⟨inferInstance, degreewiseEpiWithInjectiveKernel_π f n₁⟩,
+    fun i hi ↦ quasiIsoAt_ι f n₁ (fun j hj ↦ hf j (by lia)) _ hi,
+    isIso_π_f f n₁⟩
 
-proof_wanted step [EnoughInjectives C] [Mono f] (n₀ n₁ : ℤ) (hn₁ : n₀ + 1 = n₁)
+public lemma step [EnoughInjectives C] [Mono f] (n₀ n₁ : ℤ) (hn₁ : n₀ + 1 = n₁)
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5a.lean:406]: I imagine that this will become private when the last `proof_wanted cm5a` is cleared?

**Review by robin-carlier — COMMENTED** [review]
Only very minor comments.

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean (hunk 6 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/Factorizations/CM5a.lean:406]: Yes.

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean (hunk 5 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/Factorizations/CM5a.lean:410]: I am not sure I understand the suggested change here.

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/Factorizations/CM5a.lean:220]: I think `≤ n` is correct, see `lemma isIso_π_f (i : ℤ) (hi : i ≤ n) : IsIso ((π f n).f i) := by` or the statement of `step₂` (where `n` is  `n₁`⟩.

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean (hunk 5 above)
Comment (robin-carlier) [reply Mathlib/Algebra/Homology/Factorizations/CM5a.lean:410]: Sorry, looks like I pasted the suggestion on the wrong line here.
I was pointing out the extra whitespace after `F₂.obj.ι` in the line below.

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean (hunk 2 above)
Comment (robin-carlier) [reply Mathlib/Algebra/Homology/Factorizations/CM5a.lean:220]: Yes, sorry, I got a bit confused with the indices.

File: Mathlib/Algebra/Homology/Factorizations/CM5a.lean [hunk 7]
```diff
@@ -210,13 +208,213 @@ public lemma step₁ [EnoughInjectives C] [Mono f] (n₀ n₁ : ℤ)
...
     (hf : ∀ i ≤ n₀, QuasiIsoAt f i) (hn₁ : n₀ + 1 = n₁ := by lia) :
-    ∃ (F : (cofFib f).FullSubcategory), quasiIsoLE n₁ F ∧ isIsoLE n₀ F
+    ∃ (F : (cofFib f).FullSubcategory), quasiIsoLE n₁ F ∧ isIsoLE n₀ F := by
+  obtain ⟨F₁, h₁, h₂, _⟩ := step₁ f n₀ n₁ hf
+  obtain ⟨F₂, h₃, h₄⟩ := step₂ F₁.obj.ι n₀ n₁ h₁
+  refine ⟨.mk { mid := F₂.obj.mid, ι := F₂.obj.ι , π := F₂.obj.π ≫ F₁.obj.π }
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/Factorizations/CM5a.lean]:
```suggestion
  refine ⟨.mk { mid := F₂.obj.mid, ι := F₂.obj.ι, π := F₂.obj.π ≫ F₁.obj.π }
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate
